Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
s/p mechanical fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMHx CAD s/p CABG, 2 prior colon surgeries, presenting as 
transfer from ___ for trauma eval for R ___ rib 
fractures due to mechanical fall. Patient reports trying to get 
into his walker at his ___ this evening, when he tripped and 
fell onto his right side. Denies LOC or headstrike. He sustained 
a laceration to his R forearm and was sent to an OSH. head CT 
head, torso, abdomen, CXR and x-ray R hand, found to have 
non-displaced fractures of ___ to 9th ribs on right.

Upon evaluation in the ED, patient appears comfortable and NAD. 
He is breathing well on room air, although his breaths still 
appear to be shallow. He demonstrates significant pain along his 
right flank.
 
Past Medical History:
PMHx: CHF, CODP, CKD, anemia
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:|
R ribs TTP along mid-axillary line, most prominent at rib 9. No 
flail chest, no ecchymosis. Lungs clear anteriorly, pt refuses 
to sit up for posterior exam. Head NCAT. R forearm with ~3 x 4 
cm area of denuded skin.

Discharge Physical Exam:
VS: T: 97.4 PO BP: 113/68 L Sitting HR: 79 RR: 16 O2: 96% Ra 
GEN: A+Ox3, NAD
HEENT: atraumatic, MMM
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation
EXT: wwp, trace edema b/l UE.  RUE abrasions with mepilex 
 
Pertinent Results:
IMAGING:

OSH Right Hand x-ray ___
Impression - No acute abnormality identified

OSH CT Chest w/ contrast ___
Impression - nondisplaced fractures of the lateral right ___ 
through 9th ribs

OSH CT abd/pelvis w/ contrast ___
Impression - No acute abnormality idenitified

OSH CT C-spine w/o contrast ___
Impression - there are degenerative disc and facet findings. No 
acute abnormality identified

LABS:

___ 09:09PM   GLUCOSE-102* UREA N-20 CREAT-1.2 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-21* ANION GAP-15
___ 09:09PM   CALCIUM-8.4 PHOSPHATE-3.5 MAGNESIUM-2.0
___ 09:09PM   WBC-6.7 RBC-3.03* HGB-11.1* HCT-33.0* 
MCV-109* MCH-36.6* MCHC-33.6 RDW-16.3* RDWSD-65.7*
___ 09:09PM   NEUTS-79.7* LYMPHS-7.6* MONOS-9.3 EOS-2.4 
BASOS-0.4 IM ___ AbsNeut-5.34 AbsLymp-0.51* AbsMono-0.62 
AbsEos-0.16 AbsBaso-0.03
___ 09:09PM   PLT SMR-LOW* PLT COUNT-90*
___ 09:09PM   ___ PTT-31.6 ___
 
Brief Hospital Course:
Mr. ___ is a ___ who presented as transfer from ___ 
for trauma evaluation for right ___ rib fractures s/p 
mechanical fall. The patient was admitted to the trauma surgery 
service for respiratory monitoring and pulmonary toilet. Pain 
was managed with acetaminophen and tramadol. 

The patient was alert and oriented throughout hospitalization.  
The patient remained stable from a cardiovascular and pulmonary 
standpoint. Vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. The patient tolerated a 
regular diet. The patient's fever curves were closely watched 
for signs of infection, of which there were none. The patient's 
blood counts were closely watched for signs of bleeding, of 
which there were none. The patient received subcutaneous heparin 
and ___ dyne boots were used during this stay and was 
encouraged to get up and ambulate as early as possible.

The patient worked with Physical Therapy and ___ recommended 
discharge to home with home physical therapy. At the time of 
discharge, the patient was doing well, afebrile and 
hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Tylenol
Diltiazem ER 120mg
Flovent 220mcg HFA BID
Folic acid 1mg
Furosemide 20mg
Guaifensin 10cc q4 prn cough
Ipratropium-albuterol q4 prn
Loperamide 2mg TID prn
Methotrexate 2.5mg (7.5mg weekly on ___
Omeprazole 20mg daily
Pro-air HFA 90mcg inhaler
Procrit 40,000 ___
Spiriva 18mcg
Trazodone 50mg qhs
Vitamin B12 1000mcg daily

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN constipation   
3.  Lidocaine 5% Patch 1 PTCH TD DAILY 
apply patch and leave on for 12 hours, and then remove and leave 
off for 12 hours  
RX *lidocaine 5 % Apply one patch to area of rib pain Daily Disp 
#*7 Patch Refills:*0 
4.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*15 Tablet Refills:*0 
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Diltiazem Extended-Release 120 mg PO DAILY  
7.  Epoetin ___ ___  Units SC WEEKLY   
8.  Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Furosemide 20 mg PO DAILY  
11.  Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN wheezing  
12.  LOPERamide 2 mg PO TID:PRN diarrhea   
13.  Methotrexate 7.5 mg PO 1X/WEEK (___)  
14.  Omeprazole 20 mg PO DAILY  
15.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
16.  Tiotropium Bromide 1 CAP IH DAILY  
17.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
-Right ___ rib fractures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were transferred to ___ in 
___ with multiple right-sided rib fractures after a fall.  
You were admitted to the Trauma Surgery Service for pain control 
and to monitor your breathing. While in the hospital, you worked 
with Physical Therapy and it is recommended that you have 
Physical Therapy services come to your home to help you regain 
your strength. You are now ready to be discharged home.  Please 
note the following discharge instructions:

* Your injury caused right-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
 
Followup Instructions:
___